US07276516B2
C-(2-Fluoro-pyridin-3-yl)-methylamine hydrochloride
Add concentrated HCl (0.46 mL) to a suspension 2-fluoro-nicotinonitrile (0.34 g, 2.8 mmol) and 5% Pd/C (0.5 g) in methanol (10 mL) at RT. Stir suspension under an atmosphere of hydrogen at 1 atm. For 6 hours. Filter reaction mixture and concentrate the filtrate. Add ether to the residue, bubble HCl gas through the suspension, filter precipitate, and dry to give the title compound (0.37 g, 82%). MS (ES) 127.1 (M+1)+. 1H NMR (400 MHz, DMSO) δ: 8.65 (brs, 3H), 8.24 (m, 1H), 8.16 (m, 1H), 7.41 (m, 1H), 4.06 (m, 2H).

reactant | HCl | 0.46 mL | Cl | ClH
reactant | 2-fluoro-nicotinonitrile | 2.8 mmol, 0.34 g | FC1=C(C#N)C=CC=N1 | C6H3FN2
solvent | methanol | 10 mL | CO | CH4O
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | C-(2-Fluoro-pyridin-3-yl)-methylamine hydrochloride | 0.37 g, 82% | Cl.FC1=NC=CC=C1CN | InChI=1S/C6H7FN2.ClH/c7-6-5(4-8)2-1-3-9-6;/h1-3H,4,8H2;1H
